US04762548
N,N-bis-(3-chloroallyl) formamide
Bis-(3-chloroallyl)amine (2.5 g, 0.015 mol) and 25 ml formic acid were combined and refluxed for 5 hours. The mixture was stripped under a vacuum from a hot-water bath. The yield was 2.6 g of the above-named product.

reactant | Bis-(3-chloroallyl)amine | 0.015 mol, 2.5 g | ClC=CCNCC=CCl | C6H9Cl2N
reactant | formic acid | 25 ml | C(=O)O | CH2O2
product | N,N-bis-(3-chloroallyl) formamide | ClC=CCN(C=O)CC=CCl | C7H9Cl2NO
